US09428456B2
1-(4-Bromo-thiophen-2-ylmethyl)-piperidine-4-carboxylic acid tert-butylamide K-6
The title compound is prepared according to the reaction 3.01c described above using 4-bromo-thiophene-2-carbaldehyde and piperidine-4-carboxylic acid tert-butylamide hydrochloride as in 3.01c: LC-MS A: tR=0.65 min; [M+H]+=360.95.

reactant | 4-bromo-thiophene-2-carbaldehyde | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | piperidine-4-carboxylic acid tert-butylamide hydrochloride | Cl.C(C)(C)(C)NC(=O)C1CCNCC1
product | 1-(4-Bromo-thiophen-2-ylmethyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC=1SC=C(C1)Br | C15H23BrN2OS
